US04077982
A mixture of 236.3 g 3,4-dihydropyran and 90.1 g 1,3-dihydroxy-2-propanone, to which had been added 20 drops of concentrated hydrochloric acid, was heated to 85° C at which temperature, an exothermic reaction began. A cooling bath was applied to maintain the temperature in the range 85°-95° C during the next 15 minutes when heat was again applied to maintain the temperature at 85°-95° C for 2 hours. Excess dihydropyran was removed by warming under reduced pressure and the residue was dissolved in 600 ml of diethyl ether. The ether solution was washed (4 × 200 ml) with 5% aqueous sodium carbonate, then with water (3 × 300 ml) and dried over magnesium sulfate. The dried solution was distilled under reduced pressure to give 172.7 g of 1,3-bis(2-tetrahydropyranyloxy)-2-propanone, b.p. 90°-97°/2 × 10-4 mm.

reactant | 3,4-dihydropyran | 236.3 g | O1CCCC=C1 | C5H8O
reactant | 1,3-dihydroxy-2-propanone | 90.1 g | OCC(CO)=O | C3H6O3
catalyst | hydrochloric acid | 20 drops | Cl | ClH
product | 1,3-bis(2-tetrahydropyranyloxy)-2-propanone | 172.7 g | O1C(CCCC1)OCC(COC1OCCCC1)=O | C13H22O5
